US08304380B2
To a solution of (2,4-dimethyl-1-vinylcyclohex-3-enyl)methanol (3.50 g, 21.1 mmol), triethylamine (3.83 g, 38 mmol) and a catalytic amount of DMAP in Et2O (30 ml) was added Ac2O (3.22 g, 31.6 mmol). The mixture was stirred for 5 h, poured on water and extracted with Et2O. The combined organic layers were washed with water and brine, dried and evaporated in vacuo. The residue was distilled bulb-to-bulb to yield (2,4-dimethyl-1-vinylcyclohex-3-enyl)methyl acetate (3.81 g, 86%) as a colorless oil.

reactant | (2,4-dimethyl-1-vinylcyclohex-3-enyl)methanol | 21.1 mmol, 3.50 g | CC1C(CCC(=C1)C)(C=C)CO | C11H18O
reactant | triethylamine | 38 mmol, 3.83 g | C(C)N(CC)CC | C6H15N
reactant | Ac2O | 31.6 mmol, 3.22 g | CC(=O)OC(=O)C | C4H6O3
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | Et2O | 30 ml | CCOCC | C4H10O
product | (2,4-dimethyl-1-vinylcyclohex-3-enyl)methyl acetate | 3.81 g, 86% | C(C)(=O)OCC1(C(C=C(CC1)C)C)C=C | C13H20O2
